US08309566B2
A homogeneous mixture of 3-acetyl-6-chloropyridine (5 mL) (which can be prepared in a similar manner by the methods disclosed in Lee, C-H. et al., J. Med. Chem. (2001), Vol. 44, pp. 2133-2138) in N,N-dimethylformamide dimethylacetal (15 mL) was refluxed for 4 h. After cooling the reaction mixture to ambient temperature, it was diluted with hexanes (100 mL), sonicated for 30 seconds and the solid formed was isolated by filtration. The resulting solid was then washed with hexanes (3×25 mL), dried and analyzed to afford 3-(3-(dimethylamino)prop-2-en-1-onyl)-6-chloropyridine; LCMS: purity: 92%; MS (m/e): 212 (MH+).

reactant | 3-acetyl-6-chloropyridine | 5 mL | C(C)(=O)C=1C=NC(=CC1)Cl | C7H6ClNO
reactant | N,N-dimethylformamide dimethylacetal | 15 mL | COC(N(C)C)OC | C5H13NO2
product | 3-(3-(dimethylamino)prop-2-en-1-onyl)-6-chloropyridine | CN(C=CC(=O)C=1C=NC(=CC1)Cl)C | C10H11ClN2O
